US04777252
(G) 4-Oxo-7,8-bis(phenylmethoxy)-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid, ethyl ester
At 225° C. [[[4,5-bis(phenylmethoxy)-2-pyridinyl]amino]methylene]malonic acid, diethyl ester (10.7 g, 22.45 mmol) was added to 135 g of diphenylether. After stirring for 30 minutes at 225° C., the mixture was allowed to cool at room temperature, and 150 ml of petroleum ether was added. After standing overnight in the refrigerator, the resulting crystals were collected by filtration, washed with petroleum ether and recrystallized from ethanol. Yield: 4.77 g; melting point 175.3° C.

reactant | [[[4,5-bis(phenylmethoxy)-2-pyridinyl]amino]methylene]malonic acid, diethyl ester | 22.45 mmol, 10.7 g | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)NC=C(C(=O)OCC)C(=O)OCC | C27H28N2O6
reactant | diphenylether | 135 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 4-Oxo-7,8-bis(phenylmethoxy)-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid, ethyl ester | O=C1C(=CN=C2N1C=C(C(=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)C(=O)OCC | C25H22N2O5
